US05576343
An aqueous solution containing 3 g of sodium hydroxide dissolved in 10 ml of water was added to 100 ml of a methanol solution containing 22 g of methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(6-cyano-2-indolyl)propionate, and the resulting mixture was stirred at room temperature for 24 hours. After distilling off the solvent, the remaining portion was adjusted to pH 4-5 with citric acid and then extracted with ethyl acetate. By drying the extract to distill off the solvent, 20 g of 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(6-cyano-2-indolyl)propionic acid was obtained.

reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
reactant | methyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(6-cyano-2-indolyl)propionate | 22 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OC)CC=1NC2=CC(=CC=C2C1)C#N | C28H31N3O5
solvent | water | 10 ml | O | H2O
product | 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(6-cyano-2-indolyl)propionic acid | 20 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)O)CC=1NC2=CC(=CC=C2C1)C#N | C27H29N3O5
